US07737166B2
tert-Butyl {(3S)-3-methyl-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidin-3-yl}carbamate (I-343)
With cooling with ice, trifluoroacetic acid (7 ml) was added to a dichloromethane (14 ml) solution of tert-butyl (3S)-3-methyl-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate (I-342) (800 mg, 2.64 mmol), followed by stirring at room temperature for 13 hours. The reaction liquid was concentrated under reduced pressure, dissolved in chloroform, washed with saturated brine (60 ml). After drying over anhydrous sodium sulfate and concentration under reduced pressure, the resulting residue was dissolved in toluene (20 ml), then triethylamine (735 μl, 5.27 mmol) and diphenylphosphorylazide (739 μl, 3.43 mmol) were added, followed by stirring at room temperature for 30 minutes, then by stirring in an oil bath at 125° C. for 3 hours. tert-Butanol (20 ml) was added to the reaction liquid, followed by stirring in an oil bath at 100° C. for 11 hours. The reaction liquid was concentrated under reduced pressure, the residue was dissolved in ethyl acetate, washed with saturated brine. After drying over anhydrous sodium sulfate and concentration, the resulting residue was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate=2:1→1:4, v/v) to obtain the entitled compound (500 mg, 60%) as a colorless oily substance.

reactant | trifluoroacetic acid | 7 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl (3S)-3-methyl-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate | 2.64 mmol, 800 mg | C[C@]1(CN(C(C1)=O)[C@H](C)C1=CC=CC=C1)C(=O)OC(C)(C)C | C18H25NO3
reactant | triethylamine | 5.27 mmol, 735 μl | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphorylazide | 3.43 mmol, 739 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-Butanol | 20 ml | C(C)(C)(C)O | C4H10O
solvent | dichloromethane | 14 ml | ClCCl | CH2Cl2
product | tert-Butyl {(3S)-3-methyl-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidin-3-yl}carbamate | 500 mg, 60% | C[C@]1(CN(C(C1)=O)[C@H](C)C1=CC=CC=C1)NC(OC(C)(C)C)=O | C18H26N2O3
